*****************************************************************
* NXP BSH103
*
* Polarity N-Channel
* Ratings 30V/5.00E-01OHMS/0.5A
*
* Date Created Thu May  5 12:38:26 2005
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BSH103 DRAIN GATE SOURCE

LD DRAIN 5 7e-10
RLD2 DRAIN 5 1.7592904
RLD1 5 4 0.00035
LG GATE 1 2.8e-09
RLG GATE 1 7.0371616
LS SOURCE 8 8e-10
RLS2 SOURCE 8 2.0106176
RLS1 8 7 0.0069

RDS 7 4 240000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.167989599257517 TC=0.00346248128119176,-2.23221620156079e-06
RBD 9 4 0.0853481926973045 TC=0.00346248128119176,-2.23221620156079e-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 80000000
CGS 2 6 7.24e-11
RG 1 2 1.767

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	175
+ -5	175
+ -2	175
+ -1	175
+ -0.5	175
+ -0.2	175
+ -0.1	175
+ 0	175
+ 0.01	175
+ 0.5	100
+ 1	70
+ 1.5	60
+ 2	52
+ 2.5	46
+ 3	41
+ 3.5	38
+ 4	35
+ 4.5	33
+ 5	30
+ 7.5	25
+ 10	20
+ 12.5	19
+ 15	18
+ 17.5	16
+ 20	15
+ 25	14



.MODEL MINT NMOS(Vto=0.8044653308583916 Kp=2.995 Nfs=600e+09 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=4000)

.MODEL DBD D(Bv=30.00 Ibv=1.00E-05 Rs=1E-6 Is=6.14153744662471e-14
+ N=1 M=0.1 VJ=0.5 Fc=0.5 Cjo=0 Tt=2.5e-09)

.ENDS

















