***********************************************************
*
* PUMD2
*
* Nexperia
*
* Resistor equipped double NPN/PNP Transistor (RET)
* IC   = 100 mA
* VCEO = 50 V 
* hFE  = min. 60 @ 5V/5mA
* R1   = 22 Kohm
* R2   = 22 Kohm
*
*
* Package pinning does not match Spice model pinning.
* Package: SOT 363
* 
* Package Pin 1;4: Emitter   TR1;TR2 
* Package Pin 2;5: Base      TR1;TR2
* Package Pin 3;6: Collector TR2;TR1
*
*
* Extraction date (week/year): 31/2019
* Spicemodel includes temperature dependency
*
**********************************************************
*sb#
* Please note: Resistances R1 and R2 are not part of the 
* model and have to be added separately.
*
* Diode D1, Transistor Q2 and resistor RQ 
* are dedicated to improve modeling of quasi
* saturation area and reverse mode operation
* and do not reflect physical devices.
*
.SUBCKT PUMD2_NPN 1 2 3
Q1 1 2 3 MAIN
D1 2 1 DIODE
.MODEL MAIN NPN
+ IS = 7.325E-15
+ NF = 0.9774
+ ISE = 5.414E-14
+ NE = 2.963
+ BF = 291
+ IKF = 0.1276
+ VAF = 41.31
+ NR = 0.9762
+ ISC = 8.521E-16
+ NC = 1.094
+ BR = 20.09
+ IKR = 4.137
+ VAR = 63.1
+ RB = 160
+ IRB = 0.000145
+ RBM = 4.2
+ RE = 0.3822
+ RC = 0.5684
+ XTB = 1.156
+ EG = 1.11
+ XTI = 3.659
+ CJE = 1.014E-11
+ VJE = 0.67
+ MJE = 0.3354
+ TF = 5.95E-10
+ XTF = 25
+ VTF = 2
+ ITF = 0.18
+ PTF = 0
+ CJC = 2.96E-12
+ VJC = 0.4591
+ MJC = 0.2626
+ XCJC = 1
+ TR = 8E-08
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.78
.MODEL DIODE D
+ IS = 1.077E-15
+ N = 0.988
+ BV = 1000
+ IBV = 0.001
+ RS = 857.2
+ CJO = 0
+ VJ = 1
+ M = 0.5
+ FC = 0
+ TT = 0
+ EG = 1.11
+ XTI = 3
.ENDS
*
.SUBCKT PUMD2_PNP 1 2 3
Q1 1 2 3 MAIN 0.9133
Q2 11 2 3 MAIN 0.08666
RQ 11 1 227.1
D1 1 2 DIODE
*
.MODEL MAIN PNP
+ IS = 1.074E-014
+ NF = 0.987
+ ISE = 4.71E-015
+ NE = 1.594
+ BF = 307.5
+ IKF = 0.07345
+ VAF = 22.04
+ NR = 0.9839
+ ISC = 1E-018
+ NC = 0.9168
+ BR = 13.62
+ IKR = 0.0376
+ VAR = 24.01
+ RB = 39.4
+ IRB = 0.0001259
+ RBM = 3.4
+ RE = 0.2709
+ RC = 0.3664
+ XTB = 1.559
+ EG = 1.11
+ XTI = 5.918
+ CJE = 9.067E-012
+ VJE = 0.712
+ MJE = 0.3653
+ TF = 9.5E-010
+ XTF = 18
+ VTF = 3
+ ITF = 0.7
+ PTF = 0
+ CJC = 8.778E-012
+ VJC = 0.9955
+ MJC = 0.6991
+ XCJC = 1
+ TR = 3.4E-008
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.79
.MODEL DIODE D
+ IS = 2.594E-015
+ N = 1.03
+ BV = 1000
+ IBV = 0.001
+ RS = 9550
+ CJO = 0
+ VJ = 1
+ M = 0.5
+ FC = 0
+ TT = 0
+ EG = 1.11
+ XTI = 3
.ENDS
*